US05135914
Step B: Preparation of 3-[[2-amino-1-oxo-3-[1-(triphenylmethyl)-1H-imidazol-4-yl]propyl]amino]-2-hydroxy-5-methylhexanoic acid, 1-methylethyl ester (mixture of [2R-[2R*,3S*(S*)]] and [2S-[2R*,3R*(R*)]]-isomers)
Palladium on charcoal, 10%, 1 g, is added to 11.8 g (16.5 mmol) of 2-hydroxy-5-methyl-3-[[1-oxo-2[[(phenylmethoxy)carbonyl]amino]-3-[1-(triphenylmethyl)-1H-imidazol-4-yl]propyl]amino]hexanoic acid (mixture of [2R-[2R*,3S*(S*)]] and [2S-[2R*,3R*(R*)]]isomers) dissolved in isopropanol and the mixture is exposed to hydrogen gas. After complete uptake of hydrogen the mixture is filtered, the solvent evaporated in vacuo and the residue co-evaporated with diethyl ether to give 9.5 g of the title compound as a beige foam after drying under high vacuum for one hour.

reactant | 2-hydroxy-5-methyl-3-[[1-oxo-2[[(phenylmethoxy)carbonyl]amino]-3-[1-(triphenylmethyl)-1H-imidazol-4-yl]propyl]amino]hexanoic acid | 16.5 mmol, 11.8 g | OC(C(=O)O)C(CC(C)C)NC(C(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)=O | C40H42N4O6
reactant | hydrogen | [H][H] | H2
reactant | isopropanol | C(C)(C)O | C3H8O
catalyst | Palladium on charcoal | [Pd] | Pd
product | 3-[[2-amino-1-oxo-3-[1-(triphenylmethyl)-1H-imidazol-4-yl]propyl]amino]-2-hydroxy-5-methylhexanoic acid, 1-methylethyl ester | 9.5 g | NC(C(=O)NC(C(C(=O)OC(C)C)O)CC(C)C)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H42N4O4
